US05231113
Ethyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate
4-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzamide-Using 4-hydroxybenzamide, the title compound was synthesized as a white solid. PMR (CDCl3): δ 1.35 (6H, s), 1.37 (6H, s), 1.76 (4H, s), 7.32 (2H, d, J~8.6 Hz), 7.48 (1H, d, J~8.4 Hz), 7.89-7.98 (3H, m), 8.17 (1H, d, J~1.9 Hz).

reactant | 4-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzamide | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)OC1=CC=C(C(=O)N)C=C1)C | C22H25NO3
reactant | 4-hydroxybenzamide | OC1=CC=C(C(=O)N)C=C1 | C7H7NO2
product | Ethyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)OC1=CC=C(C(=O)OCC)C=C1)C | C24H28O4
